US06555694B1
Production of 3-carboxy-1-(3-trifluoromethylphenyl)-2-pyrrolidinone
10.0 g of 1,1-cyclopropanedicarboxylic acid and 12.4 g of 4-trifluoromethylaniline were added to 15 ml of acetonitrile, followed by refluxing for 7 hours with heating and stirring. The subsequent operation was conducted in the same manner as in Example 2 to obtain 7.1 g of an intended compound at a yield of 38.8%.

reactant | 1,1-cyclopropanedicarboxylic acid | 10.0 g | C1(CC1)(C(=O)O)C(=O)O | C5H6O4
reactant | 4-trifluoromethylaniline | 12.4 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 3-carboxy-1-(3-trifluoromethylphenyl)-2-pyrrolidinone | 7.1 g, yield of 38.8% | C(=O)(O)C1C(N(CC1)C1=CC(=CC=C1)C(F)(F)F)=O | C12H10F3NO3
